US06403610B1
A mixture of 1.07 g of methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-(prop-2-ynyl)piperidine-3-carboxylate in 10 cm3 of triethylamine was stirred for 5 minutes under an inert atmosphere at a temperature in the region of 20° C. 0.156 g of tetrakis(triphenylphosphine)palladium, 0.051 gof cuprous iodide, and 0.78 g of 1-bromo-2,6-difluorobenzene were added. The mixture was stirred for 3 hours 30 minutes at a temperature in the region of 80° C. After cooling to approximately 20° C., the reaction mixture had 30 cm3 of ethyl acetate and 30 cm3 of water added. After stirring for 10 minutes, the mixture was separated by settling. After separating off the organic phase, the aqueous layer was extracted with 2 times 30 cm3 of ethyl acetate. The organic extracts were combined, washed with 3 times 30 cm3 of water, dried over sodium sulfate, filtered, and concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The residue obtained was purified by chromatography under a nitrogen pressure of 50 kPa on a column of silica gel (particle size 20-45 μm; diameter 3 cm; 50 g), elution was carried out with pure ethyl acetate, and first a fraction of 300 cm3 were collected, followed by 38-cm3 fractions. Fractions 6 to 16 were combined and concentrated as above. 0.55 g of methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(2,6-difluorophenyl)prop-2-ynyl]piperidine-3-carboxylate was obtained in the form of a foam with a pale yellow color.

reactant | methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-(prop-2-ynyl)piperidine-3-carboxylate | 1.07 g | OC(CC[C@H]1[C@H](CN(CC1)CC#C)C(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C23H28N2O4
reactant | 1-bromo-2,6-difluorobenzene | 0.78 g | BrC1=C(C=CC=C1F)F | C6H3BrF2
reactant | ethyl acetate | 30 cm3 | C(C)(=O)OCC | C4H8O2
reactant | water | 30 cm3 | O | H2O
solvent | triethylamine | 10 cm3 | C(C)N(CC)CC | C6H15N
catalyst | tetrakis(triphenylphosphine)palladium | 0.156 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(2,6-difluorophenyl)prop-2-ynyl]piperidine-3-carboxylate | 0.55 g | OC(CC[C@H]1[C@H](CN(CC1)CC#CC1=C(C=CC=C1F)F)C(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C29H30F2N2O4
